US09238647B2
Step B: tert-butyl 2-(benzylamino)-6-(4-methylphenyl)isonicotinate
To a solution of 2-(benzylamino)-6-(4-methylphenyl)isonicotinic acid (0.62 g, 1.94 mmol) in THF (7.7 mL) at 0° C. was added dimethylaminopyridine (0.12 g, 0.97 mmol). A solution of di-tert-butyl dicarbonate (0.21 g. 0.97 mmol) in THF (1 mL) was added and the mixture was allowed to warm to ambient temperature. After 18 h, The mixture was cooled to 0° C. and additional dimethylaminopyridine (0.12 g, 0.97 mmol) and di-tert-butyl dicarbonate (0.21 g. 0.97 mmol) were added. The mixture was allowed to warm to ambient temperature. After 18 h, the solvent was removed and HCl (0.1 N aqueous solution) was added and the mixture was extracted with ethyl acetate (3×). The combined organic layer was washed with brine, dried over sodium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% hexanes→100% ethyl acetate) gave the title compound (0.37 g): LC-MS [M+1]=374.9.

reactant | 2-(benzylamino)-6-(4-methylphenyl)isonicotinic acid | 1.94 mmol, 0.62 g | C(C1=CC=CC=C1)NC=1C=C(C(=O)O)C=C(N1)C1=CC=C(C=C1)C | C20H18N2O2
reactant | dimethylaminopyridine | 0.97 mmol, 0.12 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | di-tert-butyl dicarbonate | 0.97 mmol, 0.21 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | dimethylaminopyridine | 0.97 mmol, 0.12 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | di-tert-butyl dicarbonate | 0.97 mmol, 0.21 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 7.7 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | tert-butyl 2-(benzylamino)-6-(4-methylphenyl)isonicotinate | 0.37 g | C(C1=CC=CC=C1)NC=1C=C(C(=O)OC(C)(C)C)C=C(N1)C1=CC=C(C=C1)C | C24H26N2O2
